US08957064B2
Step 1: 3-hydrazinocarbonyl-azetidine-1-carboxylic acid tert-butyl ester
1-(tert-butoxycarbonyl) azetidine-3-carboxylic acid (5 g, 24.8 mmol) was suspended in dichloromethane (15 mL) and 1,1′-carbonyldiimidazole (4.56 g, 28.1 mmol) was added in portions. The resulting mixture was stirred at rt for 30 minutes and then added dropwise to a solution of hydrazine hydrate (1.94 mL, 39.9 mmol) in dichloromethane (5 mL). After the addition was complete, the mixture was stirred for 30 min at rt. The reaction mixture was washed with saturated aqueous Na2CO3 solution (2×), brine, dried (Na2SO4) and concentrated under vacuum to give a white crystalline solid, which was triturated with diethyl ether overnight, filtered and air-dried for 5 h to give a white solid.

reactant | 1-(tert-butoxycarbonyl) azetidine-3-carboxylic acid | 24.8 mmol, 5 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | 1,1′-carbonyldiimidazole | 28.1 mmol, 4.56 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine hydrate | 39.9 mmol, 1.94 mL | O.NN
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-hydrazinocarbonyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)NN | C9H17N3O3
